US07737149B2
Hydrogen chloride (4M in 1,4-dioxane, 0.37 ml, 1.48 mmol) was added to methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]piperidin-4-yl]pyrazine-2-carboxylate (120 mg, 0.37 mmol) in MeOH (3.70 ml). The resulting solution was stirred at ambient temperature for 24 h. The crude product was purified by ion exchange chromatography, using a SCX column. The desired product was eluted from the column using 7M NH3/MeOH and evaporated to dryness to afford methyl 5-(piperidin-4-yl)pyrazine-2-carboxylate (83 mg, 100%) as a pale yellow solid. This was used directly with no further purification.

reactant | Hydrogen chloride | 1.48 mmol, 4M, 0.37 ml | Cl | ClH
reactant | methyl 5-[1-[(2-methylpropan-2-yl)oxycarbonyl]piperidin-4-yl]pyrazine-2-carboxylate | 0.37 mmol, 120 mg | CC(C)(C)OC(=O)N1CCC(CC1)C=1N=CC(=NC1)C(=O)OC | C16H23N3O4
solvent | MeOH | 3.70 ml | CO | CH4O
product | methyl 5-(piperidin-4-yl)pyrazine-2-carboxylate | 83 mg, 100% | N1CCC(CC1)C=1N=CC(=NC1)C(=O)OC | C11H15N3O2
